US05594021
2-(4-methoxybenzyl)-benzo[b]thiophene-3-sulfonylchloride was prepared by the method of Example 40B with DMF (3.2 mmoles, 0.24 ml), sulfurylchloride (2.7 mmoles, 0.22 ml) and 2-(4-methoxybenzyl)benzo[b]thiophene (1.6 mmoles. 0.4 g). Flash chromatography using 2% ethyl acetate/hexanes provided 0.19 g (33%) of a light yellow solid.

reactant | DMF | 3.2 mmoles, 0.24 ml | CN(C)C=O | C3H7NO
reactant | sulfurylchloride | 2.7 mmoles, 0.22 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 2-(4-methoxybenzyl)benzo[b]thiophene | 1.6 mmoles, 0.4 g | COC1=CC=C(CC2=CC3=C(S2)C=CC=C3)C=C1 | C16H14OS
product | 2-(4-methoxybenzyl)-benzo[b]thiophene-3-sulfonylchloride | COC1=CC=C(CC2=C(C3=C(S2)C=CC=C3)S(=O)(=O)Cl)C=C1 | C16H13ClO3S2
